US07662402B2
1.4 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile and 1.0 g of 1-bromo-3-fluoropropane were dissolved in 10 ml of ethylene glycol dimethyl ether, 0.97 g of potassium carbonate was added, and the mixture was stirred at room temperature for 10 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.67 g of 2-(3-fluoropropyl)-2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile (hereinafter, referred to as the present compound (74)).

reactant | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 1.4 g | FC(CC(C#N)C#N)(C(C(C(F)F)(F)F)(F)F)F | C8H4F8N2
reactant | 1-bromo-3-fluoropropane | 1.0 g | BrCCCF | C3H6BrF
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
product | 2-(3-fluoropropyl)-2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 0.67 g | FCCCC(C#N)(C#N)CC(C(C(C(F)F)(F)F)(F)F)(F)F | C11H9F9N2
